US05840911
a) 5-Cyano-1-tetralone
0.41 g (4.5 mmol) of copper(I) cyanide is added to a solution of 1.0 g (4.4 mmol) of 5-bromo-1-tetralone [see J. Org. Chem. 49, 4226 (1984)] in 1.3 ml of DMF, and the reaction mixture is stirred at 160° for 6 hours. The reaction mixture is then cooled to 80°, and a solution of 1.6 g of iron(III) chloride hexahydrate in 2.5 ml of water and 0.44 ml of concentrated hydrochloric acid is added. Stirring is continued for 45 minutes, the reaction mixture is cooled and diluted with water, and extraction is carried out with toluene. The organic phase is washed with water, dried over magnesium sulfate, filtered and concentrated by evaporation. In that manner there is obtained the title compound in the form of yellow-orange crystals, IR (CH2Cl2): 2220, 1690 cm-1 ; 1H-NMR (CDCl3): δ=8.26 (q,1H); 7.81 (q,1H); 7.43 (t,1H); 3.21 (t,2H); 2.72 (t,2H); 2.23 (m,2H).

reactant | copper(I) cyanide | 4.5 mmol, 0.41 g | [Cu]C#N
reactant | 5-bromo-1-tetralone | 4.4 mmol, 1.0 g | BrC1=C2CCCC(C2=CC=C1)=O | C10H9BrO
reactant | toluene | C1(=CC=CC=C1)C | C7H8
solvent | DMF | 1.3 ml | CN(C)C=O | C3H7NO
solvent | water | 2.5 ml | O | H2O
solvent | hydrochloric acid | 0.44 ml | Cl | ClH
catalyst | iron(III) chloride hexahydrate | 1.6 g | O.O.O.O.O.O.[Fe](Cl)(Cl)Cl
product | 5-Cyano-1-tetralone | C(#N)C1=C2CCCC(C2=CC=C1)=O | C11H9NO
